US05747499
A solution of (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-3-pivaloyloxy-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-2-[p-(carboxymethyl)phenyl]acetic acid (0.14 g, 0.2 mmol) in 1 ml of methanol containing 0.6 ml of 1N NaOH was stirred for 90 minutes at room temperature. After dilution with water and filtration the pH was adjusted to 2.5 with 2N HCl . The resulting solid was filtered off, washed with water, dried and triturated with ether to give (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-2-[p-(carboxymethyl)phenyl]acetic acid (0.103 g, 93%) as a white solid, m.p. 196°-200° C.;

reactant | (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-3-pivaloyloxy-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-2-[p-(carboxymethyl)phenyl]acetic acid | 0.2 mmol, 0.14 g | FC1=C(C(=O)N[C@H](C(=O)O)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)N(C1CCC2=C1C(=C1C(N(C(=NC1=C2)C)OC(C(C)(C)C)=O)=O)C)C | C36H37FN4O8
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-2-[p-(carboxymethyl)phenyl]acetic acid | 0.103 g, 93% | FC1=C(C(=O)N[C@H](C(=O)O)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)N(C1CCC2=C1C=C1C(NC(=NC1=C2)C)=O)C | C30H27FN4O6
